US05686481
1-(3,4-Methylenedioxybenzyl)-3-(4-methoxyphenyl)indole-2-carboxylic acid
Ethyl 3-(4-methoxyphenyl)indole-2-carboxylate. To a solution of ethyl 2-(4-methoxybenzyl)-3-oxobutyrate (1.0 g, 4 mmol) in EtOAc (6 mL) stirred at ice bath temperature under an argon atmosphere was added a solution of NaOH (0.48 g, 12 mmol) in H2O (2 mL). This was immediately followed by the addition of an aqueous solution of benzenediazonium chloride (4.2 mmol) [prepared from aniline, (0.39 g, 4.2 mmol) in 6N HCl (0.5 mL) and NaNO2 (0.29 g, 4.2 mmol)]. After 10 min the mixture was partitioned between EtOAc (50 mL) and H2O (25 mL). The aqueous layer was washed with EtOAc (15 mL). The combined organic extracts were washed with saturated aqueous NaCl solution, dried (Na2SO4) and the solvent was removed in vacuo. The residue was dissolved in EtOH (10 mL) and the solution was saturated with HCl gas. This was refluxed for 1 h then cooled to room temperature and partitioned EtOAc (50 mL) and saturated aqueous NaHCO3 solution (50 mL). The aqueous layer was washed with EtOAc (15 mL). The combined organic extract was washed with H2O then saturated aqueous NaCl solution, dried (Na2SO4) and the solvent was removed in vacuo. Chromatography (silica gel, gradient elution from 25% Et2O/hexanes to 45% Et2O/hexanes) followed by crystallization from EtOAc/hexanes to afford the title compound (0.32 g, 27%); m.p. 109°-111° C.

reactant | Ethyl 3-(4-methoxyphenyl)indole-2-carboxylate | COC1=CC=C(C=C1)C1=C(NC2=CC=CC=C12)C(=O)OCC | C18H17NO3
reactant | ethyl 2-(4-methoxybenzyl)-3-oxobutyrate | 4 mmol, 1.0 g | COC1=CC=C(CC(C(=O)OCC)C(C)=O)C=C1 | C14H18O4
reactant | NaOH | 12 mmol, 0.48 g | [OH-].[Na+]
reactant | benzenediazonium chloride | 4.2 mmol, 6N, 0.5 mL, 0.39 g | [Cl-].C1(=CC=CC=C1)[N+]#N
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 2 mL | O | H2O
product | 1-(3,4-Methylenedioxybenzyl)-3-(4-methoxyphenyl)indole-2-carboxylic acid | 0.32 g, 27% | C1OC=2C=C(CN3C(=C(C4=CC=CC=C34)C3=CC=C(C=C3)OC)C(=O)O)C=CC2O1 | C24H19NO5
